US20010056195A1
Preparation of hexadecane-1,15-dione without isolation of the intermediates
57.6 g (0.4 mol) of 96% strength 1,9-decadiene and 23.4 g (0.16 mol) of di-tert-butyl peroxide are added dropwise from separate dropping funnels (immersed), at 160° C., to 464 g (4 mol) of methyl acetoacetate over the course of 2 h, and the mixture is then refluxed for a further 1 h. The excess acetoacetate is then distilled off under reduced pressure. This gives 148 g of an oily residue which is further reacted directly. This residue is dissolved in 400 ml of DMSO and refluxed with 35.6 g (0.44 mol) of sodium chloride and 14.4 g (0.08 mol) of water for 3 h at 155 to 160° C. According to GC analysis, the mixture comprises 10.7 area % hexane-1,15-dione and also 1.5 area % methyl 2-acetyl-14-oxopentadecanoate. For work-up, the DMSO is firstly distilled off under reduced pressure, and the residue (137 g) is distributed between 700 ml of ethyl acetate and 100 ml of water, and the ethyl acetate phase is washed again with 100 ml of water. The ethyl acetate phase is dried and concentrated under reduced pressure. This gives 102 g of residue with a content, according to GC, of 37% by weight of hexadecane-1,15-dione. Accordingly, the yield of 1,15-hexadecanedione is 42%, based on 1,9-decadiene.

reactant | 1,9-decadiene | C=CCCCCCCC=C | C10H18
reactant | di-tert-butyl peroxide | 0.16 mol, 23.4 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | methyl acetoacetate | 4 mol, 464 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium chloride | 0.44 mol, 35.6 g | [Cl-].[Na+]
reactant | water | 0.08 mol, 14.4 g | O | H2O
reactant | methyl 2-acetyl-14-oxopentadecanoate | C(C)(=O)C(C(=O)OC)CCCCCCCCCCCC(C)=O | C18H32O4
solvent | DMSO | 400 ml | CS(=O)C | C2H6OS
product | hexadecane-1,15-dione | C(CCCCCCCCCCCCCC(C)=O)=O | C16H30O2
